US09359375B2
To a solution of (R)-2-amino-3-cyclopropylpropanoic acid (1.0 g, 7.7.4 mmol) in Ethanol (15 mL) and water (8 mL) was added 1N NaOH (10 mL) and Di-tert-butyl carbonate (1.86 g, 8.52 mmol) in THF (8 mL). After stirring at room temperature for 15 h, the solution was diluted with water, extracted with ether, the aqueous layer was separated and was acidified to pH 2 with conc. HCl, the aqueous layer was extracted with EtOAc, organic layer was separated, washed with brine, dried and concentrated to give (R)-2-(tert-butoxycarbonylamino)-3-cyclopropylpropanoic acid (1.0 g).

reactant | (R)-2-amino-3-cyclopropylpropanoic acid | 1.0 g | N[C@@H](C(=O)O)CC1CC1 | C6H11NO2
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | Di-tert-butyl carbonate | 8.52 mmol, 1.86 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | Ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 8 mL | O | H2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (R)-2-(tert-butoxycarbonylamino)-3-cyclopropylpropanoic acid | 1.0 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1CC1 | C11H19NO4
